US07772226B2
(b) 7-(2-Butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purine-2-carboxamide
77 mg of t-butyl 4-[7-(2-butynyl)-2-carbamoyl-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in 1 ml of trifluoroacetic acid, and the solution was concentrated. The residue was purified by chromatography using NH-silica gel. Thus, 49 mg of the title compound was obtained from the fraction eluted with ethyl acetate-methanol (5:1)

reactant | t-butyl 4-[7-(2-butynyl)-2-carbamoyl-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 77 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)C(N)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C20H27N7O4
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(2-Butynyl)-1-methyl-6-oxo-8-(piperazin-1-yl)-6,7-dihydro-1H-purine-2-carboxamide | 49 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)C(=O)N)N1CCNCC1 | C15H19N7O2
